US07507736B2
4-[1-Isopropyl-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester
The title compound was prepared in analogy to example 40a), from 4-[5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester and isopropyl methanesulfonate. Light-yellow foam. MS (m/z): 513.4 (M+H)+.

reactant | 4-[5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)OC1CCN(CC1)C(C)C | C26H38N4O4
reactant | isopropyl methanesulfonate | CS(=O)(=O)OC(C)C | C4H10O3S
product | 4-[1-Isopropyl-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C=1N(C2=CC=C(C=C2C1)OC1CCN(CC1)C(C)C)C(C)C | C29H44N4O4
